US05968928
6-Nitro-9-(thiophene-2-sulfonyl)-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione
A mixture of the 6-nitropyridoquinoxalinedione (0.1 g, 0.38 mmol), 2-chlorosulfonyl thiophene (104 mg, 0.57 mmol), triethylamine (70 μl) in THF (5 mL) and DMF (5 mL) was stirred at 60° C. for 24 hours. The mixture was poured onto water and diethyl ether. The precipitate was collected by filtration, washed with water and ether, and dried in vacuo to give product as a yellow solid (80 mg) in 52% yield; mp >300° C. m/e, M+1 409 nmR, IR, CHN.

reactant | 6-nitropyridoquinoxalinedione | 0.38 mmol, 0.1 g | [N+](=O)([O-])C1=CC2=NC(C(N=C2C2=C1N=CC=C2)=O)=O | C11H4N4O4
reactant | 2-chlorosulfonyl thiophene | 0.57 mmol, 104 mg | ClS(=O)(=O)C=1SC=CC1 | C4H3ClO2S2
reactant | triethylamine | 70 μl | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Nitro-9-(thiophene-2-sulfonyl)-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione | 80 mg, 52% yield | [N+](=O)([O-])C=1C2=C(C=3NC(C(NC3C1)=O)=O)CN(CC2)S(=O)(=O)C=2SC=CC2 | C15H12N4O6S2
